US05451653
Preparation of Benzylidene t-Butylamine
To a three neck round bottom flask, equipped with a cold water condenser, 30 g of water and 26.5 g of benzaldehyde were added. The mixture was mixed with a magnetic stirrer at room temperature for 3 minutes. t-Butyl amine (22.1 g) was added to the reaction flask in one portion, followed by vigorous stirring for 15 hours. The agitation was stopped and the reaction mixture was allowed to stand for at least 15 minutes. The lower aqueous layer was separated from the reaction mixture. The upper layer was collected and dried over magnesium sulfate to give 35.5 g of product. 1H NMR (300 Hz, CDCl3, ppm): 8.29 (1H, s), 7.77 (2H, m), 7.40 (3H, m), 1.33 (9H, s).

reactant | benzaldehyde | 26.5 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | t-Butyl amine | 22.1 g | C(C)(C)(C)N | C4H11N
solvent | water | 30 g | O | H2O
product | Benzylidene t-Butylamine | 35.5 g | C(C1=CC=CC=C1)=NC(C)(C)C | C11H15N
